US04791107
(3aS-cis)-1-cyclopropylmethyl-1,2,3,3a,8,8a-hexahydro-3a,8-dimethylpyrrolo[2,3-b]indol-5-ol
The title compound is prepared in the same manner as described for the 1-(2-phenylethyl) analog of Example 45 except that 2.72 g of (3aS-cis)-1-cyclopropylmethyl-1,2,3,3a,8,8a-hexahydro-5-methoxy-3a,8-dimethylpyrrolo[2,3-b]indole is reacted as a starting material with 10.1 g of boron tribromide in chloroform.

reactant | (3aS-cis)-1-cyclopropylmethyl-1,2,3,3a,8,8a-hexahydro-5-methoxy-3a,8-dimethylpyrrolo[2,3-b]indole | 2.72 g | C1(CC1)CN1CC[C@@]2([C@H]1N(C1=CC=C(C=C21)OC)C)C | C17H24N2O
reactant | boron tribromide | 10.1 g | B(Br)(Br)Br | BBr3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (3aS-cis)-1-cyclopropylmethyl-1,2,3,3a,8,8a-hexahydro-3a,8-dimethylpyrrolo[2,3-b]indol-5-ol | C1(CC1)CN1CC[C@@]2([C@H]1N(C1=CC=C(C=C21)O)C)C | C16H22N2O
